US09388185B2
2-(3,5-Dimethoxyphenethyl)-6-(1-methyl-1H-indazol-6-yl)-5H-pyrrolo[2,3-b]pyrazine
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (from Combi-Blocks). LCMS calculated for C24H24N5O2 (M+H)+: m/z=414.2. Found 414.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | CN1N=CC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C14H19BN2O2
product | 2-(3,5-Dimethoxyphenethyl)-6-(1-methyl-1H-indazol-6-yl)-5H-pyrrolo[2,3-b]pyrazine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC=C2C=NN(C2=C3)C)C=C(C1)OC | C24H23N5O2
